US04614801
2-(4-methoxyphenyl) indolizine
10 g of 2-picoline and 25 g of 4-methoxyphenacyl bromide in 35 ml of ethanol were refluxed for 18 hours. The reaction solution was concentrated under reduced pressure to give a solid, which was dissolved in 350 ml of water. After the aqueous solution was extracted with three 35 ml portions of ether, 35 g of sodium bicarbonate was added to the aqueous solution and was refluxed two hours. The cooled reaction mixture was filtered to give 20 g of product.

reactant | 2-picoline | 10 g | N1=C(C=CC=C1)C | C6H7N
reactant | 4-methoxyphenacyl bromide | 25 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 350 ml | O | H2O
product | 2-(4-methoxyphenyl) indolizine | 20 g | COC1=CC=C(C=C1)C=1C=C2C=CC=CN2C1 | C15H13NO
